US08236984B2
Benzyl bromide (17.25 mL, 144 mmol) was added to a stirring solution of 2,6-dichloro-4-nitrophenol (5 g, 24 mmol) and potassium carbonate (13.3 g, 96 mmol) in acetone (30 mL). The mixture was heated to 75° C. for 12 h before being cooled to room temperature and poured into ice-water (100 mL). The mixture was extracted with chloroform (200 mL), washed with brine (100 mL) and the combined organic layers were dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (9:1, hexane/dichloromethane) to afford 2-(benzyloxy)-1,3-dichloro-5-nitrobenzene as a white solid (99% yield).

reactant | Benzyl bromide | 144 mmol, 17.25 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 2,6-dichloro-4-nitrophenol | 24 mmol, 5 g | ClC1=C(C(=CC(=C1)[N+](=O)[O-])Cl)O | C6H3Cl2NO3
reactant | potassium carbonate | 96 mmol, 13.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | 2-(benzyloxy)-1,3-dichloro-5-nitrobenzene | 99% yield | C(C1=CC=CC=C1)OC1=C(C=C(C=C1Cl)[N+](=O)[O-])Cl | C13H9Cl2NO3
